US04032544
2-Acetoxy-5-ethyl-4-methylbenzoyl chloride (11.5 g) in dry ether (75 ml) was added slowly to a stirred, refluxing suspension of the sodium salt of ethyl cyanoacetate [prepared from ethyl cyanoacetate (14.97 g) and a 60% suspension of sodium hydride in mineral oil (5.00 g)] in dry ether (275 ml). Refluxing was continued for 18 hours, the mixture cooled and poured into water (500 ml) containing 2.5N sodium hydroxide (30 ml). The alkaline phase was separated, washed with ether (× 3), acidified with 12N hydrochloric acid and filtered. Recrystallisation from ethanol-dilute hydrochloric acid gave 3-cyano-6-ethyl-4-hydroxy-7-methyl coumarin, m.p. 224°-226° C. (Found; C, 68.22; H, 5.01; N, 5.64; C13H11NO3 requires; C, 68.11; H, 4.84; N, 6.11.)

reactant | 2-Acetoxy-5-ethyl-4-methylbenzoyl chloride | 11.5 g | C(C)(=O)OC1=C(C(=O)Cl)C=C(C(=C1)C)CC | C12H13ClO3
reactant | sodium | [Na] | Na
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl cyanoacetate | 14.97 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydroxide | 2.5N, 30 ml | [OH-].[Na+]
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 275 ml | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 3-cyano-6-ethyl-4-hydroxy-7-methyl coumarin | C(#N)C=1C(OC2=CC(=C(C=C2C1O)CC)C)=O | C13H11NO3
